US08202868B2
a.2.3: 2-tert-Butyl-4-chloro-6-cyclopropyl-pyrimidine
14.8 g 2-tert-butyl-4-hydroxy-6-cyclopropyl-pyrimidine (76.9 mmol) were dissolved in 100 ml of toluene and 3 ml of dimethylformamide. 23.6 ml of POCl3 (153.7 mmol) were added dropwise at 10° C. After stirring overnight at room temperature most of the toluene was evaporated. The mixture was cooled with ice and 20 ml of water were added cautiously. Subsequently, an additional 200 ml of water were added and the aqueous phase was extracted four times with dichloromethane. The combined organic phases were dried over magnesium sulfate, filtered, and then concentrated to dryness to yield 17 g of a yellowish oil (quant.).

reactant | 2-tert-butyl-4-hydroxy-6-cyclopropyl-pyrimidine | 76.9 mmol, 14.8 g | C(C)(C)(C)C1=NC(=CC(=N1)O)C1CC1 | C11H16N2O
reactant | POCl3 | 153.7 mmol, 23.6 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-tert-Butyl-4-chloro-6-cyclopropyl-pyrimidine | 17 g | C(C)(C)(C)C1=NC(=CC(=N1)Cl)C1CC1 | C11H15ClN2
